US06384080B1
A mixture of 2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzoic acid (120 mg), cyclohexanemethylamine (53.3 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimde hydrochloride (107 mg) and 1-hydroxybenzotriazole (81.0 mg) in anhydrous dimethylformamide (3 mL) was stirred for 18 hours at ambient temperature. The mixture was partitioned between water and ethyl acetate. The separated organic layer was washed with 1N-hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and brine, successively, and dried over magnesium sulfate. After evaporation of the solvent, the residue was triturated with diisopropyl ether to give N-cyclohexylmethyl-2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzamide (157 mg) as yellow powders.

reactant | 2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzoic acid | 120 mg | O[C@H]1CC[C@H](CC1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H16N2O5
reactant | cyclohexanemethylamine | 53.3 mg | C1(CCCCC1)CN | C7H15N
reactant | 1-hydroxybenzotriazole | 81.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-cyclohexylmethyl-2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzamide | 157 mg | C1(CCCCC1)CNC(C1=C(C=CC(=C1)[N+](=O)[O-])N[C@@H]1CC[C@@H](CC1)O)=O | C20H29N3O4
